US06184242B2
A solution of 2,2,2-trifluoro-N-(4-(piperidin-4-ylmethyl)-phenyl]acetamide (0.5 g, 1.75 mmol) (prepared as previously described in Example 19, steps 1 to 3) and triethylamine in dichloromethane (10 mL) was cooled in an ice bath under a nitrogen atmosphere. The mixture was then treated with a solution of 1-piperidinesulfonyl chloride (0.39 g, 2.09 mmol) in dichloromethane (1 mL). The reaction mixture was stirred for 1.5 hours at 0-5° C. and quenched with water. The organic layer was separated, and the aqueous layer extracted with dichloromethane. The combined organic extracts were washed with water and brine, dried, and solvents removed in vacuo. The residue was chromatographed on silica gel, eluting with 30% ethyl acetate/hexanes, to give 2,2,2-trifluoro-N-[4-(1-piperidinesulfonylpiperidin-4-ylmethyl)-phenyl]acetamide (0.48 g) as a white solid, m.p. 156-157° C.; Analysis for C19H26N3O3SF3: Calc.: C, 52.64; H, 6.05; N, 9.69; Found: C, 52.84; H, 6.00; N, 6.79.

reactant | 2,2,2-trifluoro-N-(4-(piperidin-4-ylmethyl)-phenyl]acetamide | 1.75 mmol, 0.5 g | FC(C(=O)NC1=CC=C(C=C1)CC1CCNCC1)(F)F | C14H17F3N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-piperidinesulfonyl chloride | 2.09 mmol, 0.39 g | N1(CCCCC1)S(=O)(=O)Cl | C5H10ClNO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-N-[4-(1-piperidinesulfonylpiperidin-4-ylmethyl)-phenyl]acetamide | 0.48 g | FC(C(=O)NC1=CC=C(C=C1)CC1CCN(CC1)S(=O)(=O)N1CCCCC1)(F)F | C19H26F3N3O3S
